US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid propyl ester
In analogy to the procedure described for the synthesis of example 136, the title compound [(3S,4R)-4-(4-chloro-phenyl)-1-(5′-cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid propyl ester was prepared from 4-[(3R,4S)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile using propyl chloroformate instead of ethyl chloroformate and was obtained as a colorless foam. MS m/e: 510.4 [M]+.

reactant | 4-[(3R,4S)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile | ClC1=CC=C(C=C1)[C@@H]1CN(C[C@H]1NC)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N | C23H26ClN5O
reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(5′-cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid propyl ester | C(CC)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N)=O | C27H32ClN5O3
